US04067853
Bis-phenol A, that is 2,2-di(p-hydroxy-phenyl-)propane, was reacted in known manner with an excess of pentene - 1,2-oxide. The product, the mixture of diastereisomers, 2,2-bis-(p-(β-hydroxy-pentoxy-)phenyl)propane was obtained as a yellow-brown, semisolid mass, which was obtained as a colorless substance by distillation b.p.:192°-210° C/O .005 mm. The OH-equivalent was 207.

reactant | Bis-phenol A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | pentene - 1,2-oxide | CCCC1CO1 | C5H10O
product | 2,2-bis-(p-(β-hydroxy-pentoxy-)phenyl)propane | OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CCC)O)CCC | C25H36O4
